US04640916
To a solution of 2.86 g of 2-(3-bromopropyl)-2H-1,4-benzothiazin-3(4H)-one in 10 ml of dimethyl sulfoxide was added 0.54 g of sodium cyanide. The mixture was stirred at room temperature for 3 hours and diluted with water. The resulting crystals were collected by filtration and washed with water. Recrystallization from methanol gave 1.55 g (66.7%) of 2-(3-cyanopropyl)-2H-1,4-benzothiazin-3(4H)-one as prisms, m.p. 107°-108° C.

reactant | 2-(3-bromopropyl)-2H-1,4-benzothiazin-3(4H)-one | 2.86 g | BrCCCC1SC2=C(NC1=O)C=CC=C2 | C11H12BrNOS
reactant | sodium cyanide | 0.54 g | [C-]#N.[Na+]
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-(3-cyanopropyl)-2H-1,4-benzothiazin-3(4H)-one | 1.55 g, 66.7% | C(#N)CCCC1SC2=C(NC1=O)C=CC=C2 | C12H12N2OS
